US06562807B2
3-{4-[3-Biphenyl-2-ylmethyl-1-(4-cyclohexylphenyl)ureidomethyl]benzoylamino}-2(R)-hydroxypropionic Acid
This compound was prepared similarly as described in example 35 from N-chlorocarbamoyl-4-[(4-cyclohexylphenylamino)methyl]benzoic acid methyl ester and biphenyl-2-ylmethylamine followed by hydrolysis of the benzoic acid methyl ester, coupling with (R)-isoserine ethyl ester hydrochloride. Hydrolysis afforded the title compound.

reactant | N-chlorocarbamoyl-4-[(4-cyclohexylphenylamino)methyl]benzoic acid methyl ester | COC(C1=CC=C(C=C1)CN(C(NCl)=O)C1=CC=C(C=C1)C1CCCCC1)=O | C22H25ClN2O3
reactant | biphenyl-2-ylmethylamine | C1(=C(C=CC=C1)CN)C1=CC=CC=C1 | C13H13N
reactant | benzoic acid methyl ester | COC(C1=CC=CC=C1)=O | C8H8O2
reactant | (R)-isoserine ethyl ester hydrochloride | Cl.C(C)OC([C@@H](CN)O)=O
product | 3-{4-[3-Biphenyl-2-ylmethyl-1-(4-cyclohexylphenyl)ureidomethyl]benzoylamino}-2(R)-hydroxypropionic Acid | C1(=C(C=CC=C1)CNC(N(C1=CC=C(C=C1)C1CCCCC1)CC1=CC=C(C(=O)NC[C@H](C(=O)O)O)C=C1)=O)C1=CC=CC=C1 | C37H39N3O5
